US07157487B2
To a solution of ethyl 3-chloro-4-(1-methyl-3-indolylcarbonylamino)phenylacetate (639 mg, 1.72 mmol) in THF (17.5 mL) was added 0.25N NaOH (10.3 mL, 2.58 mmol). The resulting mixture was stirred at room temperature for 4 hours. Under ice cooling, the reaction mixture was poured in 1N HCl (15 ml). The crystals thus precipitated were collected by filtration, washed with water and dried under reduced pressure, whereby 3-chloro-4-(1-methyl-3-indolylcarbonylamino)phenylacetic acid (549 mg, 93%) was obtained as a colorless solid.

reactant | ethyl 3-chloro-4-(1-methyl-3-indolylcarbonylamino)phenylacetate | 1.72 mmol, 639 mg | ClC=1C=C(C=CC1NC(=O)C1=CN(C2=CC=CC=C12)C)CC(=O)OCC | C20H19ClN2O3
reactant | NaOH | 2.58 mmol, 0.25N, 10.3 mL | [OH-].[Na+]
solvent | THF | 17.5 mL | C1CCOC1 | C4H8O
solvent | HCl | 1N, 15 ml | Cl | ClH
product | 3-chloro-4-(1-methyl-3-indolylcarbonylamino)phenylacetic acid | 549 mg, 93% | ClC=1C=C(C=CC1NC(=O)C1=CN(C2=CC=CC=C12)C)CC(=O)O | C18H15ClN2O3
